US09079866B2
2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-N-[(2R)-2-hydroxypropyl]benzenesulfonamide
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and (R)-2-bromo-N-(2-hydroxypropyl)benzenesulfonamide. MS (ESI): mass calcd. for C18H19N5O3S, 385.12; m/z found, 386.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.92 (s, 2H), 8.60 (dd, J=2.3, 0.8, 1H), 8.09 (dd, J=8.0, 1.3, 1H), 7.91 (dd, J=8.2, 2.3, 1H), 7.82 (dd, J=8.2, 0.9, 1H), 7.70 (m, 1H), 7.62 (m, 1H), 7.41 (dd, J=7.6, 1.4, 1H), 3.70-3.59 (m, 1H), 2.79-2.67 (m, 2H), 1.04 (d, J=6.3, 3H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | (R)-2-bromo-N-(2-hydroxypropyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NC[C@@H](C)O | C9H12BrNO3S
product | 2-[6-(2-Aminopyrimidin-5-yl)pyridin-3-yl]-N-[(2R)-2-hydroxypropyl]benzenesulfonamide | NC1=NC=C(C=N1)C1=CC=C(C=N1)C1=C(C=CC=C1)S(=O)(=O)NC[C@@H](C)O | C18H19N5O3S
